Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
___ 09:17AM   ___ PTT-41.4* ___
___ 09:17AM   PLT COUNT-244
___ 09:17AM   NEUTS-62.9 ___ MONOS-5.0 EOS-0.8* 
BASOS-0.3 IM ___ AbsNeut-4.90 AbsLymp-2.39 AbsMono-0.39 
AbsEos-0.06 AbsBaso-0.02
___ 09:17AM   WBC-7.8 RBC-3.80* HGB-11.7 HCT-33.4* MCV-88 
MCH-30.8 MCHC-35.0 RDW-11.7 RDWSD-37.6
___ 09:17AM   OSMOLAL-265*
___ 09:17AM   TRIGLYCER-351* HDL CHOL-37* CHOL/HDL-6.6 
LDL(CALC)-137*
___ 09:17AM   %HbA1c-6.4* eAG-137*
___ 09:17AM   ALBUMIN-4.3 CALCIUM-8.2* PHOSPHATE-2.7 
MAGNESIUM-1.9 CHOLEST-244*
___ 09:17AM   cTropnT-<0.01
___ 09:17AM   LIPASE-24
___ 09:17AM   ALT(SGPT)-24 AST(SGOT)-32 ALK PHOS-98 TOT 
BILI-0.5
___ 09:17AM   estGFR-Using this
___ 09:17AM   GLUCOSE-116* UREA N-9 CREAT-0.8 SODIUM-128* 
POTASSIUM-3.6 CHLORIDE-92* TOTAL CO2-22 ANION GAP-14
___ 09:24AM   LACTATE-1.4
___ 10:35AM URINE  RBC-5* WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 10:35AM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 10:35AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:10PM   ___ PTT-43.2* ___
___ 03:10PM   PLT COUNT-303
___ 03:10PM   WBC-9.3 RBC-4.17 HGB-12.7 HCT-36.9 MCV-89 
MCH-30.5 MCHC-34.4 RDW-11.8 RDWSD-37.6
___ 03:42PM URINE  OSMOLAL-500
___ 03:42PM URINE  HOURS-RANDOM UREA N-446 CREAT-164 
SODIUM-90

IMAGING
___ CT CHEST -- IMPRESSION:  1. Multiple calcified lung 
granulomas and calcified mediastinal and right hilar lymph 
nodes, most consistent with prior granulomatous disease such as 
tuberculosis.  No evidence of malignancy.
2. 1.8 cm left thyroid lobe nodule, for which further evaluation 
with ultrasound is recommended.
3. Multiple subpleural nodules measuring up to 3 mm.  For 
incidentally detected multiple solid pulmonary nodules smaller 
than 6mm, no CT follow-up is recommended in a low-risk patient, 
and an optional CT follow-up in 12 months is recommended in a 
high-risk patient.

See the ___ ___ Guidelines for the Management 
of Pulmonary
Nodules Incidentally Detected on CT" for comments and reference:
___

RECOMMENDATION(S):  Thyroid ultrasound.

MICROBIOLOGY
___  URINE CULTURE-FINAL
___  BLOOD CULTUREBlood Culture, Routine-PENDING
___  SPUTUMACID FAST SMEAR-FINAL; ACID FAST 
CULTURE-PENDING
___  SPUTUMACID FAST SMEAR-FINAL; ACID FAST 
CULTURE-PENDING; MTB Direct Amplification-PRELIMINARY (M. 
TUBERCULOSIS DNA NOT DETECTED BY NAAT)

DISCHARGE LABS
___ 05:20AM BLOOD WBC-7.0 RBC-3.81* Hgb-11.4 Hct-33.5* 
MCV-88 MCH-29.9 MCHC-34.0 RDW-11.8 RDWSD-37.6 Plt ___
___ 05:20AM BLOOD ___ PTT-39.3* ___
___ 05:20AM BLOOD Glucose-95 UreaN-12 Creat-0.8 Na-131* 
K-3.6 Cl-94* HCO3-21* AnGap-16
___ 05:20AM BLOOD Calcium-8.6 Phos-3.2 Mg-1.___ woman w/PMHx HTN, HLD, R upper toothache, taking a ___ 
pain medication for this at home (mefenamic acid, a type of 
NSAID with numerous potential adverse effects), also with 4d of 
coughing with chest pain and scant hemoptysis, with chest 
imaging showing signs of prior tuberculosis.

On the day of discharge, the patient continued to complain of 
tooth discomfort, not significantly changed from prior.  We 
discussed this issue and I encouraged her to try acetaminophen.  
She did not feel that the oxycodone could clearly helped her so 
we decided not to discharge her with any of this.  I encouraged 
her to take the penicillin.  I also emphasized the importance of 
follow-up with her primary care physician about the numerous 
issues noted below.  She had no additional questions.

Vitals reviewed and unremarkable.  Inputs and outputs reviewed 
and unremarkable.  Older woman seated in bed, alert, 
cooperative, NAD.  When talking about her tooth she grimaced and 
would grip the side of her head, but otherwise was able to speak 
without difficulty and move around without any problem.  Equal 
chest rise, CTAB, no WOB or cough.  Heart regular.  Abdomen 
soft, NTND.  Extremities warm and well-perfused, no pitting 
edema.  No rash on limited examination.  No obvious focal 
neurological deficits.

SUMMARY by PROBLEMS

#Recent cough w/hemoptysis, resolved
#CT chest w/evidence of prior TB: "Multiple calcified lung 
granulomas and calcified mediastinal and right hilar lymph 
nodes, most consistent with prior granulomatous disease such as 
tuberculosis.  No evidence of malignancy."
-After admission her cough stopped, and she had no other 
pulmonary or infectious sx
-Infectious Disease consulted, recommended r/o TB w/sputa x 3 
and MTB amplification.  She was only able to produce 2 sputum 
samples, but they were both negative for AFB smear as was the 
MTB amplification, and Infectious Disease/Infection Control 
recommended airborne precautions be discontinued and that she be 
discharged,  With follow-up of the cultures by her primary care 
physician

___
#Found to have a chronic apical tooth abscess with periodontal 
disease (R upper molar, aka #3)
-Dental was consulted and they recommended a Panorex which 
showed a chronic tooth abscess
-They recommended she take 7d of penicillin and "plan on 
extracting #3 and #6 root tip. Also comprehensive dental 
evaluation is required after patient is discharged and stable."
-we provided her information for the free dental clinic at 
___ and gave her the Panorex images on a CD
-she was offered APAP and low dose ibuprofen for pain control, 
but she did not feel they worked
–Encouraged her not to take the ___ medication she had been 
taking given concern it could be causing some side 
effects/discomfort

#Hyponatremia (131 when last checked), mild asymptomatic, 
improving, thought SIADH
-this was thought perhaps related to her tooth pain
-she was encouraged to use a 1.5 L fluid restriction after 
discharge
–consider repeat chemistries as an outpatient once her pain is 
better controlled 

#Isolated elevated PTT (39 when last checked)
-consider outpatient hematology evaluation (e.g. mixing study)

#Microscopic hematuria (5 RBCs on ___ urinalysis)
-repeat as outpatient -- wonder if this could be related to the 
mefenamic acid that she has been taking

#1.8 cm left thyroid lobe nodule
-Letter was sent to PCP about this issue, will need thyroid 
ultrasound

#Lung nodules: "Multiple subpleural nodules measuring up to 3 
mm. For incidentally detected multiple solid pulmonary nodules 
smaller than 6mm, no CT follow-up is recommended in a low-risk 
patient, and an optional CT follow-up in 12 months is 
recommended in a high-risk patient."
-PCP notified by letter with recommendation to repeat CT chest 
in ___ year

#HTN
#HLD
-continued home amlodipine, atorvastatin

#GERD
-continued home PPI

[x] The patient is safe to discharge today, and I spent [ ] 
<30min; [x] >30min in discharge day management services.

___, MD
___
Pager ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. amLODIPine 5 mg PO DAILY 
3. Alendronate Sodium 70 mg PO Frequency is Unknown 
4. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 

 
Discharge Medications:
1.  Penicillin V Potassium 500 mg PO/NG Q6H Duration: 7 Days 
RX *penicillin V potassium 500 mg 1 tablet(s) by mouth four 
times a day Disp #*24 Tablet Refills:*0 
2.  Alendronate Sodium 70 mg PO ONCE PER WEEK  
3.  amLODIPine 5 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  NexIUM (esomeprazole magnesium) 40 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Recent cough w/hemoptysis, resolved, with CT chest w/evidence 
of prior TB, but no signs of active TB on sputum cultures
#Chronic apical tooth abscess with periodontal disease (R upper
molar, aka #3, along with #6 tooth disease)
#Hyponatremia, mild asymptomatic, improving, thought to be SIADH
#Isolated elevated PTT
#Microscopic hematuria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a history of some chest discomfort and 
coughing with some blood in the sputum (called hemoptysis).  A 
CT scan of your chest suggested that you had likely been exposed 
to tuberculosis at some time in the past.  We tested your sputum 
and found no signs of active tuberculosis at this time, although 
some of the tests are still pending at the time you are being 
discharged.  Our Infectious Disease doctors and ___ 
Control specialists reviewed this and approved your discharge 
despite the pending tests.  They will be in touch with your 
primary care doctor about following up these results.

You also told us about your R upper jaw pain related to one of 
your molar teeth there.  We performed an x-ray (and are 
providing you with these images on a CD disk to bring to your 
dentist) and they were reviewed by a dentist.  They diagnosed 
you with a chronic tooth abscess and recommended you take 
antibiotics and see a dentist and oral surgeon.

We found you had a slightly low sodium level.  This is likely 
due to your tooth pain.  To prevent your sodium from going 
lower, we recommend that you avoid drinking more than 1.5 liters 
of water a day until you can be seen in follow-up and have your 
labs rechecked.

We found that you had an isolated elevated PTT (a blood test).  
We recommend you talk with your PCP about an outpatient 
hematology evaluation.

We found that you had a very small amount of blood in your urine 
(microscopic hematuria) and recommend your urine be rechecked as 
an outpatient.

lastly, we also found two other abnormalities on your imaging 
that require more follow-up.  Your primary care doctor has been 
sent letters about these issues:
1. You will need to have a THYROID ULTRASOUND done to further 
evaluate a thyroid nodule that was incidentally found on your CT 
of the chest.  ___ primary MD Dr. ___ has been notified, please 
arrange this with her. 
2. You will need repeat CT of the chest in ONE YEAR to evaluate 
the stability of multiple small nodules found in your lungs - 
Dr. ___ has been notified of this as well, please arrange this 
with her.
 
Followup Instructions:
___